US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 2-fluoro-6-methoxy-benzylamine and DIEA to give 2-(2-fluoro-6-methoxy-benzylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 394 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 2-fluoro-6-methoxy-benzylamine | FC1=C(CN)C(=CC=C1)OC | C8H10FNO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(2-fluoro-6-methoxy-benzylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | FC1=C(CNC=2S\C(\C(N2)=O)=C/C=2C=C3C=CC=NC3=CC2)C(=CC=C1)OC | C21H16FN3O2S
